US04497650
1,2-Dihydro-2,3-dimethyl-2-(2-methylpropyl)-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one
2-Aminobenzimidazole, methyl isobutyl ketone and ethyl isocyanate were reacted as in Example 26 using an equal volume of THF as cosolvent with the excess ketone. Working up the reaction mixture gave a crude fraction of the 10-N-methylcarbamoyl derivative of the title compound which was not purified but hydrolyzed by the 10% NaOH-THF procedure of Example 1, paragraph 2. The title compound was obtained as a solid, mp 150°-157° C. The confirmatory elemental analysis is shown in Table III.

reactant | 2-Aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
solvent | THF | C1CCOC1 | C4H8O
product | 1,2-Dihydro-2,3-dimethyl-2-(2-methylpropyl)-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | CC1(NC2=NC3=C(N2C(N1C)=O)C=CC=C3)CC(C)C | C15H20N4O
